US05712300
Preparation of tert-Butyl α-Amino-3-(2-methylpropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetate (αR-diastereomer)
A mixture of tert-butyl α-azido-3-(2-methylpropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetate (159 mg, 0.397 mmol), palladium on carbon (10%, 40 mg) and EtOH (2.0 mL) is hydrogenated overnight at 30 psi. The mixture is filtered and concentrated to give 145 mg (97%) of the title compound as an oil:

reactant | tert-butyl α-azido-3-(2-methylpropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetate | 0.397 mmol, 159 mg | N(=[N+]=[N-])C(C(=O)OC(C)(C)C)C1(C(N(CC1)CCC1=CC=CC=C1)=O)CC(C)C | C22H32N4O3
catalyst | palladium on carbon | 40 mg | [Pd] | Pd
solvent | EtOH | 2.0 mL | CCO | C2H6O
product | tert-Butyl α-Amino-3-(2-methylpropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetate | 145 mg, 97% | NC(C(=O)OC(C)(C)C)C1(C(N(CC1)CCC1=CC=CC=C1)=O)CC(C)C | C22H34N2O3
